US04927838
As in Example 113, (E)-3-(6-methoxy-3-pentylbenzo[b]thien-2-yl)-2-propenoic acid (7 g) was reacted with 4-nitrophenol (3.6 g) in dichloromethane (70 mL) in the presence of 1,3-dicyclohexylcarbodiimide (4.8 g). The crude reaction product was crystallized from dichloromethane-2-propanol to give 8.1 g of (E)-3-(6-methoxy-3-pentylbenzo[b]thien-2-yl)-2-propenoic acid 4-nitrophenyl ester, mp 111°-113° C. Anal. Calcd for C23H23NO5S: C, 64.92; H, 5.45; N, 3.29; S, 7.54 Found: C, 64.64; H, 5.35; N, 3.27; S, 7.67

reactant | (E)-3-(6-methoxy-3-pentylbenzo[b]thien-2-yl)-2-propenoic acid | 7 g | COC=1C=CC2=C(SC(=C2CCCCC)/C=C/C(=O)O)C1 | C17H20O3S
reactant | 4-nitrophenol | 3.6 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 4.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | (E)-3-(6-methoxy-3-pentylbenzo[b]thien-2-yl)-2-propenoic acid 4-nitrophenyl ester | 8.1 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C1=C(C2=C(S1)C=C(C=C2)OC)CCCCC)=O | C23H23NO5S
